### ISSUE TITLE
HexGfq: assemble N32 generic_irr with decomposed Bezout proof

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#4013]
## Current state

Replacement for #3895 after replan. The pow-chain dependency has landed: #3985 / PR #3998 added `genericN32PowChain_check` in `HexGfq/CrossCheck.lean`.

The stale part of #3895 is the Bezout proof strategy. A worker attempted the suggested direct/split proof of

```lean
Berlekamp.checkRabinBezoutWitnesses genericMod genericMod_monic genericN32SamePrimeCert = true
```

but even `checkRabinBezoutWitness 0 16` by `decide`/`rfl` got stuck in `DensePoly.ofCoeffs` normalization after roughly 270s. `native_decide` is banned in this project, so do not retry that monolithic kernel-normalization route.

## Deliverables

1. In `HexGfq/CrossCheck.lean` namespace `N32`, prove the remaining small wrapper facts that do reduce cheaply, for example:

```lean
private theorem genericN32_basisSize :
    genericN32SamePrimeCert.n = Berlekamp.basisSize genericMod := by
  decide

private theorem genericN32_nPos : 0 < genericN32SamePrimeCert.n := by
  decide

private theorem genericN32_finalEntry :
    genericN32SamePrimeCert.powChain[genericN32SamePrimeCert.n]? =
      some (FpPoly.modByMonic genericMod FpPoly.X genericMod_monic) := by
  decide
```

Use `rfl` instead of `decide` only if the literal data makes that cheaper.

2. Prove the N32 Bezout check with a proof-friendly decomposition, not a direct `decide`/`rfl` of the full boolean. Acceptable approaches include adding narrowly-scoped local lemmas or a reusable Mathlib-free checker lemma that reduces the single divisor-16 witness by smaller coefficient/list equalities. Keep the public API impact minimal and stay within the existing `HexBerlekamp` / `HexGfq` dependency direction.

Target theorem:

```lean
private theorem genericN32_bezout :
    Berlekamp.checkRabinBezoutWitnesses
      genericMod genericMod_monic genericN32SamePrimeCert = true
```

The proof should make the divisor list / witness index shape explicit, then discharge the polynomial identity in smaller pieces so the kernel does not normalize the full certificate at once.

3. Assemble:

```lean
private theorem genericN32Cert_check :
    Berlekamp.checkIrreducibilityCertificateLinearIncremental
      genericMod genericMod_monic genericN32Cert = true
```

Use the existing `genericN32PowChain_check` from #3985 plus the facts above.

4. Replace the N32 `generic_irr` `sorry` with the existing Rabin soundness route:

```lean
Berlekamp.rabinTest_imp_irreducible genericMod genericMod_monic
  (Berlekamp.checkIrreducibilityCertificateLinearIncremental_rabinTest
    genericMod genericMod_monic genericN32Cert genericN32Cert_check)
```

5. Preserve the pre-existing N16 `generic_irr` placeholder. Do not add `axiom`, `native_decide`, `TODO`, `FIXME`, or new theorem-level `sorry`.

## Context

- Supersedes #3895.
- #3893 / PR #3906 emitted the N32 literal certificate and the successful `#guard` for the Bezout witness.
- #3985 / PR #3998 proved `genericN32PowChain_check` from per-step quotient lemmas.
- The failed proof attempt is recorded in #3895: full and split direct normalization of the divisor-16 Bezout boolean was too slow.
- Relevant APIs: `HexBerlekamp/Irreducibility.lean` around `checkRabinBezoutWitnesses`, `checkRabinBezoutWitness`, `certifiedFrobeniusDiffMod`, and `checkIrreducibilityCertificateLinearIncremental`.

## Verification

- `lake build HexGfq.CrossCheck`
- `lake build HexGfq`
- `python3 scripts/status.py HexGfq`
- `python3 scripts/check_dag.py`
- `git diff --check`
- `rg -n '^\s*sorry\b|^axiom\b|native_decide|TODO|FIXME' HexGfq/CrossCheck.lean` shows the N32 `generic_irr` `sorry` is gone and only the pre-existing N16 `generic_irr` placeholder remains.

## Out of scope

- Replacing the pre-existing N16 `generic_irr` `sorry`.
- Changing fixture streams or executable GFq behavior.
- Editing `SPEC/`, top-level `PLAN.md`, or top-level `AGENTS.md`.

supersedes: #3895

**Comment by kim-em** [comment]
Session: `ae560f9c-3540-4d88-8457-706c45273069` Branch: `agent/ae560f9c`

**Comment by kim-em** [comment]
Claimed by session `28f404ce-48df-4fe9-accc-0f67bb69991a` on branch `agent/28f404ce`

**Comment by kim-em** [comment]
Decomposed into #4047

(reason: the cheap N32 wrapper facts compile in this partial, but the kernel proof of the single Bezout boolean still needs a focused proof-friendly checker/decomposition.)

**Comment by kim-em** [comment]
Worker-decomposed: #4047 (HexGfq: prove N32 Bezout boolean and finish generic_irr) covers the entire remaining scope — the N32 wrapper facts landed in this issue's partial work, and #4047 picks up the Bezout boolean proof, certificate assembly, and `generic_irr` replacement. Closing in favor of #4047.
